US06017937
Synthesis of 4-geranyloxybenzoic Acid
Ethyl 4-hydroxybenzoate (16.6 g), geranyl bromide (23.9 g), and potassium carbonate (27.6 g) were refluxed in acetone (200 ml) with stirring for 1 hour . The reaction mixture, with water added thereto, was extracted with ethyl acetate. The extract was dried over sodium sulfate anhydride. and then concentrated under a vacuum. To the residue dissolved in ethanol (150 ml) were added sodium hydroxide (3.90 g) and water(50 ml) and the mixture was refluxed with stirring for 1 hour. After being concentrated under a vacuum, the reaction mixture was acidified with hydrochloric acid and then extracted with ethyl acetate. The extract was dried over sodium sulfate anhydride and then was concentrated under a vacuum. The resulting solid was recrystallized from n-hexane/ethyl acetate mixed solution, thereby yielding 22.3 g of the aimed compound.

reactant | Ethyl 4-hydroxybenzoate | 16.6 g | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | geranyl bromide | 23.9 g | C(\C=C(/C)\CCC=C(C)C)Br | C10H17Br
reactant | potassium carbonate | 27.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 4-geranyloxybenzoic Acid | 22.3 g | C(\C=C(/C)\CCC=C(C)C)OC1=CC=C(C(=O)O)C=C1 | C17H22O3
